US08877782B2
b) Cyclopropanesulfonic acid methyl-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amide
To a solution of mixture of iodomethane (120 μL, 1.91 mmol), triethylamine (245 μL, 1.75 mmol) and anhydrous sodium carbonate (36.9 mg, 0.35 mmol) in DMF (0.5 mL) was added cyclopropanesulfonic acid [6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amide (44 mg, 0.11 mmol). The reaction mixture was then heated in the microwave for 40 min at 100° C. The mixture was then cooled and evaporated and the residue was purified by chromatography (SiO2, heptane:ethyl acetate 2:1 to 1:1) to give the title compound (3.9 mg, 9%) as a yellow solid. MS: m/e=486.3 [M+OAc]−.

reactant | iodomethane | 1.91 mmol, 120 μL | IC | CH3I
reactant | triethylamine | 1.75 mmol, 245 μL | C(C)N(CC)CC | C6H15N
reactant | sodium carbonate | 0.35 mmol, 36.9 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | cyclopropanesulfonic acid [6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amide | 0.11 mmol, 44 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC1=CC=C(C=N1)C(=O)NS(=O)(=O)C1CC1 | C20H19N3O5S
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | Cyclopropanesulfonic acid methyl-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine-3-carbonyl]-amide | 3.9 mg, 9% | CN(S(=O)(=O)C1CC1)C(=O)C=1C=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C21H21N3O5S
